data/preprocessed/USPTO_ozonolysis.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C([CH:1]=[C:2]2CCCC3=C2N=CC=C3)C=C1.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",36,4,reaction_1,USPTO_ozonolysis,train
"C1=CC=C([CH:1]2[O:2][O:3][O:4][C:5]23CCCC2=CC=CN=C23)C=C1.CSC.ClCCl|(4, 5);((5, 1), 2);((2, 3), 3)",36,3,reaction_1,USPTO_ozonolysis,train
"C1=CC=C([CH:2]=[O:1])C=C1.C1=CN=C2C(=C1)CCC[C:5]2=[O+:4][O-:3].CSC.ClCCl|(3, 2);((2, 1), 5);((5, 4), 4)",36,2,reaction_1,USPTO_ozonolysis,train
"C1=CC=C(C2OC3(CCCC4=CC=CN=C43)[O:3][O:1]2)C=C1.C[S:2]C.ClCCl|(2, 3);((3, 1), 1)",36,1,reaction_1,USPTO_ozonolysis,train
"C[S+:1](C)[O:2][C:3]1([O:4][CH:5](C2=CC=CC=C2)[O-:6])CCCC2=CC=CN=C21.ClCCl|(6, 5);((5, 4), 3);((3, 2), 1)",36,0,reaction_1,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C1=CC=C(F)C=C1)N1CCC(C[CH:1]=[CH2:2])(C2=CC=C(F)C=C2)OC1=O.ClCCl.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",19,4,reaction_0,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C1=CC=C(F)C=C1)N1CCC(C[CH:1]2[CH2:2][O:3][O:4][O:5]2)(C2=CC=C(F)C=C2)OC1=O.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",19,3,reaction_0,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C1=CC=C(F)C=C1)N1CCC(C[CH:1]=[O+:2][O-:3])(C2=CC=C(F)C=C2)OC1=O.ClCCl.[CH2:4]=[O:5]|(3, 4);((4, 5), 1);((1, 2), 2)",19,2,reaction_0,USPTO_ozonolysis,train
"C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C1=CC=C(F)C=C1)N1CCC(CC2OC[O:1][O:3]2)(C2=CC=C(F)C=C2)OC1=O.ClCCl|(2, 3);((3, 1), 1)",19,1,reaction_0,USPTO_ozonolysis,train
"CC(C1=CC=C(F)C=C1)N1CCC(C[CH:1]([O:2][CH2:3][O-:4])[O:5][P+:6](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(C2=CC=C(F)C=C2)OC1=O.ClCCl|(4, 3);((3, 2), 1);((1, 5), 6)",19,0,reaction_0,USPTO_ozonolysis,train
"CNC1=C([CH:1]=[CH2:2])C=NC(Cl)=N1.CO.CSC.ClC(Cl)Cl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",2,4,reaction_0,USPTO_ozonolysis,train
"CNC1=NC(Cl)=NC=C1[CH:1]1[CH2:2][O:3][O:4][O:5]1.CO.CSC.ClC(Cl)Cl|(5, 1);((1, 2), 3);((3, 4), 4)",2,3,reaction_0,USPTO_ozonolysis,train
"CNC1=NC(Cl)=NC=C1[CH:3]=[O+:4][O-:5].CO.CSC.ClC(Cl)Cl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",2,2,reaction_0,USPTO_ozonolysis,train
"CNC1=NC(Cl)=NC=C1C1OC[O:2][O:3]1.CO.C[S:1]C.ClC(Cl)Cl|(1, 2);((2, 3), 3)",2,1,reaction_0,USPTO_ozonolysis,train
"CNC1=NC(Cl)=NC=C1[CH:1]([O-:2])[O:3][CH2:4][O:5][S+:6](C)C.CO.ClC(Cl)Cl|(2, 1);((1, 3), 4);((4, 5), 6)",2,0,reaction_0,USPTO_ozonolysis,train
"CCN(CC)CC.CCOC(=O)C1(C[CH:1]=[C:2](C)C)CCCN(C(=O)OCC2=CC=CC=C2)C1.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",4,4,reaction_17,USPTO_ozonolysis,train
"CCN(CC)CC.CCOC(=O)C1(C[CH:1]2[O:2][O:3][O:4][C:5]2(C)C)CCCN(C(=O)OCC2=CC=CC=C2)C1.CSC.ClCCl|(2, 1);((1, 5), 4);((4, 3), 3)",4,3,reaction_17,USPTO_ozonolysis,train
"CCN(CC)CC.CCOC(=O)C1(C[CH:3]=[O+:4][O-:5])CCCN(C(=O)OCC2=CC=CC=C2)C1.CSC.C[C:1](C)=[O:2].ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",4,2,reaction_17,USPTO_ozonolysis,train
"CCN(CC)CC.CCOC(=O)C1(CC2OC(C)(C)[O:2][O:1]2)CCCN(C(=O)OCC2=CC=CC=C2)C1.C[S:3]C.ClCCl|(3, 2);((2, 1), 1)",4,1,reaction_17,USPTO_ozonolysis,train
"CCN(CC)CC.CCOC(=O)C1(C[CH:1]([O-:2])[O:3][C:4](C)(C)[O:5][S+:6](C)C)CCCN(C(=O)OCC2=CC=CC=C2)C1.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",4,0,reaction_17,USPTO_ozonolysis,train
"CC(C)(COS(=O)(=O)CCCCl)C(OCC1=CC=CC=C1)[CH:1]=[CH2:2].CCO.CSC.ClCCl.O.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",13,4,reaction_7,USPTO_ozonolysis,train
"CC(C)(COS(=O)(=O)CCCCl)C(OCC1=CC=CC=C1)[CH:1]1[CH2:2][O:3][O:4][O:5]1.CCO.CSC.ClCCl.O|(5, 1);((1, 2), 3);((3, 4), 4)",13,3,reaction_7,USPTO_ozonolysis,train
"CC(C)(COS(=O)(=O)CCCCl)C(OCC1=CC=CC=C1)[CH:3]=[O+:4][O-:5].CCO.CSC.ClCCl.O.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",13,2,reaction_7,USPTO_ozonolysis,train
"CC(C)(COS(=O)(=O)CCCCl)C(OCC1=CC=CC=C1)C1OC[O:1][O:2]1.CCO.C[S:3]C.ClCCl.O|(3, 1);((1, 2), 2)",13,1,reaction_7,USPTO_ozonolysis,train
"CC(C)(COS(=O)(=O)CCCCl)C(OCC1=CC=CC=C1)[CH:5]([O:4][CH2:3][O:2][S+:1](C)C)[O-:6].CCO.ClCCl.O|(6, 5);((5, 4), 3);((3, 2), 1)",13,0,reaction_7,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCC(C[CH:1]=[CH2:2])C(=O)N2C(=O)OCC2CC2=CC=CC=C2)OCCO1.ClCCl.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",6,4,reaction_42,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCC(C[CH:1]2[CH2:2][O:3][O:4][O:5]2)C(=O)N2C(=O)OCC2CC2=CC=CC=C2)OCCO1.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",6,3,reaction_42,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCC(C[CH:3]=[O+:4][O-:5])C(=O)N2C(=O)OCC2CC2=CC=CC=C2)OCCO1.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",6,2,reaction_42,USPTO_ozonolysis,train
"C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCC(CC2OC[O:1][O:3]2)C(=O)N2C(=O)OCC2CC2=CC=CC=C2)OCCO1.ClCCl|(2, 1);((1, 3), 3)",6,1,reaction_42,USPTO_ozonolysis,train
"CC1(CCC(C[CH:1]([O-:2])[O:3][CH2:4][O:5][P+:6](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)N2C(=O)OCC2CC2=CC=CC=C2)OCCO1.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",6,0,reaction_42,USPTO_ozonolysis,train
